US04535088
To 2-(N-methyl-3-iodo-2-propynylamino)-4-formylthiazole (No. 21) (72 mg) were added methanol (5 ml), triethylamine (0.2 ml) and hydroxylamine hydrochloride (24 mg) and the mixture was stirred at room temperature for 4 hours and evaporated to remove the solvent. After addition of a 5% aqueous solution of potassium carbonate, the residue was extracted with chloroform. The extract was washed with water, dried and evaporated to remove the solvent. The crystalline residue was treated with acetone to give 2-(N-methyl-3-iodo-2-propynylamino)-4-hydroxyiminomethylthiazole (No. 22) melting at 155°-156° C. (decomp.).

reactant | 2-(N-methyl-3-iodo-2-propynylamino)-4-formylthiazole | CN(C=1SC=C(N1)C=O)CC#CI | C8H7IN2OS
reactant | methanol | 5 ml | CO | CH4O
reactant | hydroxylamine hydrochloride | 24 mg | Cl.NO
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | 2-(N-methyl-3-iodo-2-propynylamino)-4-hydroxyiminomethylthiazole | CN(C=1SC=C(N1)C=NO)CC#CI | C8H8IN3OS
